US08557983B2
methyl 4-bromo-2-(1-methyl-1H-benzo[d]imidazol-5-yloxy)benzoate
1-methyl-1H-benzo[d]imidazol-5-ol (296 mg), methyl 4-bromo-2-fluorobenzoate (311 mg) and potassium carbonate (553 mg) were combined in dimethylsulfoxide and heated to 90° C. overnight. The reaction mixture was diluted with ethyl acetate and washed thoroughly with water and with brine, dried over MgSO4, filtered and concentrated.

reactant | 1-methyl-1H-benzo[d]imidazol-5-ol | 296 mg | CN1C=NC2=C1C=CC(=C2)O | C8H8N2O
reactant | methyl 4-bromo-2-fluorobenzoate | 311 mg | BrC1=CC(=C(C(=O)OC)C=C1)F | C8H6BrFO2
reactant | potassium carbonate | 553 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-bromo-2-(1-methyl-1H-benzo[d]imidazol-5-yloxy)benzoate | BrC1=CC(=C(C(=O)OC)C=C1)OC1=CC2=C(N(C=N2)C)C=C1 | C16H13BrN2O3
